US09260416B2
Step 4: 6-[6-Chloro-1-(1-ethyl-1H-pyrazol-4-yl)-2-methyl-1H-indol-3-ylsulfanyl]-pyridine-2-carboxylic acid ethyl ester
6-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-pyridine-2-carboxylic acid ethyl ester (0.0563 g, 0.16 mmol), 4-bromo-1-ethyl-1H-pyrazole (0.042 g, 0.24 mmol), tripotassium phosphate (0.067 g, 0.32 mmol), copper(I) iodide (0.006 g, 0.032 mmol) and N,N-dimethylethylenediamine (0.014 mL, 0.13 mmol) were combined in toluene (1 mL) in a sealed vial. The mixture was heated to 120° C. overnight. The crude reaction mixture was used directly in the next step.

reactant | 6-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-pyridine-2-carboxylic acid ethyl ester | 0.16 mmol, 0.0563 g | C(C)OC(=O)C1=NC(=CC=C1)SC1=C(NC2=CC(=CC=C12)Cl)C | C17H15ClN2O2S
reactant | 4-bromo-1-ethyl-1H-pyrazole | 0.24 mmol, 0.042 g | BrC=1C=NN(C1)CC | C5H7BrN2
reactant | tripotassium phosphate | 0.32 mmol, 0.067 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N-dimethylethylenediamine | 0.13 mmol, 0.014 mL | CN(CCN)C | C4H12N2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.032 mmol, 0.006 g | [Cu]I
product | 6-[6-Chloro-1-(1-ethyl-1H-pyrazol-4-yl)-2-methyl-1H-indol-3-ylsulfanyl]-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)SC1=C(N(C2=CC(=CC=C12)Cl)C=1C=NN(C1)CC)C | C22H21ClN4O2S
